US05221671
4-Tetrahydropyranylacetic acid
20 ml of methanol, 10 ml of water and 1 g of sodium hydroxide were added to 0.9 g of ethyl 4-tetrahydropyranylacetate and agitated at 80° C. for 1 hour. The solvent was removed by distillation, to which water was added. After washing with ethyl acetate, a hydrochloric acid aqueous solution was added to the resultant aqueous phase to an extent of pH of 3, followed by extraction with chloroform under salting-out conditions and drying with anhydrous magnesium sulfate. This was removed by filtration and the solvent was distilled off, thereby obtaining 0.87 g of a crude intended compound.

reactant | methanol | 20 ml | CO | CH4O
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | ethyl 4-tetrahydropyranylacetate | 0.9 g | O1CCC(CC1)CC(=O)OCC | C9H16O3
solvent | water | 10 ml | O | H2O
product | 4-Tetrahydropyranylacetic acid | O1CCC(CC1)CC(=O)O | C7H12O3
